US04376123
30 g of formic acid, is added dropwise to 38.5 g of 7-(1phenyl-3-methylaminopropoxy)-isoflavone, while stirring and cooling, and 7 g of 25% formaldehyde solution is then added dropwise at 20°. The mixture is heated on a waterbath until evolution of gas ceases and is cooled, poured onto ice and worked up in the customary manner to give 7-(1-phenyl-3-dimethylaminopropoxy)-isoflavone. M.p. 128°-130°.

reactant | 7-(1phenyl-3-methylaminopropoxy)-isoflavone | 38.5 g | C1(=CC=CC=C1)C(CCNC)OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C25H23NO3
reactant | formaldehyde | 7 g | C=O | CH2O
solvent | formic acid | 30 g | C(=O)O | CH2O2
product | 7-(1-phenyl-3-dimethylaminopropoxy)-isoflavone | C1(=CC=CC=C1)C(CCN(C)C)OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C26H25NO3
